US05646171
50(a) 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxamide
10 ml of a 1N aqueous solution of sodium hydroxide were added to a solution of 232 mg of 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carbonitrile [prepared as described in Example 10(a)]in 10 ml of ethanol, and the resulting mixture was heated under reflux for 3 hours. At the end of this time, the reaction mixture was worked up in a similar manner to that described in Example 45(c), to afford 185 mg of the title compound as an amorphous solid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carbonitrile | 232 mg | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C#N)C(C)(C)O)CCCC | C29H35N3O3
solvent | ethanol | C(C)O | C2H6O
product | 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxamide | 185 mg | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)N)C(C)(C)O)CCCC | C29H37N3O4
